US04197296
2β-Ethoxy-3α-hydroxy-17-methylene-5α-androstan-11-one
Triphenylmethyl phosphonium bromide (7.5 g) was added to a suspension of sodium hydride (500 mg) in dry tetrahydrofuran (100 ml). The mixture was stirred at room temperature for 1.5 hours and then treated with 2β-ethoxy-3α-hydroxy-5α-androstane-11,17-dione (2.43 g). The mixture was refluxed for 1.5 hours, cooled and partitioned between ethyl acetate and water. The organic phase was washed with water, dried (Na2SO4) and evaporated in vacuo. Purification of the residue by chromatography over silica in ethyl acetate-petroleum ether (1:2) and crystallization from ether-petroleum ether afforded the titled compound (850 mg), m.p. 103°-108°, [α]D +25.5°.

reactant | Triphenylmethyl phosphonium bromide | 7.5 g | [Br-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | sodium hydride | 500 mg | [H-].[Na+]
reactant | 2β-ethoxy-3α-hydroxy-5α-androstane-11,17-dione | 2.43 g | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC([C@@H]3[C@]2(C1)C)=O)=O)O | C21H32O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2β-Ethoxy-3α-hydroxy-17-methylene-5α-androstan-11-one | 850 mg | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC([C@@H]3[C@]2(C1)C)=O)=C)O | C22H34O3
